US08685989B2
Production of ethyl 2-(3-chloropyrazine-2-ylamino)acetate (Compound 22)
To an ethanol solution (10 mL) of 2,3-dichloropyrazine (1.0 g), glycine ethyl ester hydrochloride (940 mg) and triethylamine (1.9 mL) were added and the mixture was irradiated with microwave (150° C., 10 min). The reaction mixture was concentrated under reduced pressure. To the resulting residue, a saturated aqueous sodium bicarbonate solution was added and the product was extracted with chloroform. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by amino-coated silica gel (Fuji Sylysia Chemical Ltd.; NH-DM1020) column chromatography (hexane: ethyl acetate=10:1) to give 212 mg (15% yield) of the desired product.

reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | 2,3-dichloropyrazine | 1.0 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | glycine ethyl ester hydrochloride | 940 mg | Cl.C(C)OC(CN)=O
solvent | triethylamine | 1.9 mL | C(C)N(CC)CC | C6H15N
product | ethyl 2-(3-chloropyrazine-2-ylamino)acetate | 212 mg, 15% yield | ClC=1C(=NC=CN1)NCC(=O)OCC | C8H10ClN3O2
